US06482787B1
Synthesis of the Adduct of Imidazole/Piperazine/epi in a Ratio 1.013.0/4.0 50% Oxidized
68.8 g (1.0 mole) of imidazole, 260.4 g (3.0 mole) of piperazine were solved in 699 ml of water and reacted with 370 g (4.0 mole) of epicholrhydrin as described in example no. 2 but at a pH of 7 which was held constant using NaOH.

reactant | imidazole | 1.0 mole, 68.8 g | N1C=NC=C1 | C3H4N2
reactant | piperazine | 3.0 mole, 260.4 g | N1CCNCC1 | C4H10N2
reactant | NaOH | [OH-].[Na+]
solvent | water | 699 ml | O | H2O
product | Imidazole Piperazine | N1C=NC=C1.N1CCNCC1 | InChI=1S/C4H10N2.C3H4N2/c1-2-6-4-3-5-1;1-2-5-3-4-1/h5-6H,1-4H2;1-3H,(H,4,5)
